US07645789B2
N-(2-tert-Butyl-1-(2-hydroxy-3-(2H-tetrazol-5-yl)propyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide
To a solution of N-(2-tert-butyl-1-(3-cyano-2-hydroxypropyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (27 mg, 0.054 mmol) in anhydrous DMF (1.2 mL) were successively added NH4Cl (35 mg, 0.65 mmol) and NaN3 (43 mg, 0.65 mmol) at room temperature. The reaction mixture was stirred for 4 h at 110° C. in the microwave, at which stage 50% of the starting material was converted to the desired product. The reaction mixture was purified by preparative HPLC to provide N-(2-tert-butyl-1-(2-hydroxy-3-(2H-tetrazol-5-yl)propyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo-[d][1,3]dioxol-5-yl)cyclopropanecarboxamide. MS (ESI) m/e (M+H+) 539.0.

reactant | N-(2-tert-butyl-1-(3-cyano-2-hydroxypropyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.054 mmol, 27 mg | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CC(CC#N)O | C27H27F2N3O4
reactant | NH4Cl | 0.65 mmol, 35 mg | [NH4+].[Cl-]
reactant | NaN3 | 0.65 mmol, 43 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | N-(2-tert-Butyl-1-(2-hydroxy-3-(2H-tetrazol-5-yl)propyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CC(CC=1N=NNN1)O | C27H28F2N6O4
